US04618710
The techniques which resulted in successful amido acylation of benzene using phenyllithium were next applied to the Grignard reaction. N-ethoxycarbonylalanine was treated with 300 mol percent of phenylmagnesium bromide at -78° C. and allowed to warm to room temperature. The desired ketone was not observed. Several hours of refluxing in ether and tetrahydrofuran yielded biphenyl and starting material which was optically intact.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | N-ethoxycarbonylalanine | C(C)OC(=O)N[C@@H](C)C(=O)O | C6H11NO4
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
